US07923450B2
a) 6-[1-Dimethylamino-methylidene]-2-(2,4-dichloro-phenyl)-cyclohexanone
2-(2,4-dichloro-phenyl)-cyclohexanone (101 mg, 0.42 mmol) was reacted with tert.-butoxy-bis-(dimethylamino)-methane using in analogous manner the procedure described in example 45a) to give crude title compound (105 mg) as a red oil which was used directly in the next step. MS ISP (m/e): 298.3 [(M+H)+].

reactant | 2-(2,4-dichloro-phenyl)-cyclohexanone | 0.42 mmol, 101 mg | ClC1=C(C=CC(=C1)Cl)C1C(CCCC1)=O | C12H12Cl2O
reactant | tert.-butoxy-bis-(dimethylamino)-methane | C(C)(C)(C)OC(N(C)C)N(C)C | C9H22N2O
product | 6-[1-Dimethylamino-methylidene]-2-(2,4-dichloro-phenyl)-cyclohexanone | 105 mg | CN(C=C1CCCC(C1=O)C1=C(C=C(C=C1)Cl)Cl)C | C15H17Cl2NO
